US07279496B2
2 mmol of ethylamine and 10 mmol of MnO2 are added to a solution of 1 mmol of 3-(1-azabicyclo[2.2.2]oct-3-yl)-1H-indol-5-ylamine in 20 ml of dimethylformamide (DMF), and the mixture is stirred at room temperature for 12 hours. The suspension is filtered through Celite and washed with DMF. After the solvent has been distilled, the mixture is subjected to conventional work-up, giving 8-(1-azabicyclo[2.2.2]oct-3-yl)-2-methyl-3,6-dihydroimidazo[4,5-e]indole; ESI 281.

reactant | ethylamine | 2 mmol | C(C)N | C2H7N
reactant | 3-(1-azabicyclo[2.2.2]oct-3-yl)-1H-indol-5-ylamine | 1 mmol | N12CC(C(CC1)CC2)C2=CNC1=CC=C(C=C21)N | C15H19N3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | MnO2 | 10 mmol | O=[Mn]=O
product | 8-(1-azabicyclo[2.2.2]oct-3-yl)-2-methyl-3,6-dihydroimidazo[4,5-e]indole | N12CC(C(CC1)CC2)C2=CNC1=CC=C3C(=C21)N=C(N3)C | C17H20N4
